datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)C 10=20;20,21=21"
"[H][S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"[NH:10](C)C(C)C(C)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[NH+:10](C)C(C)C(C)C1[H] 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C(CCC)C([H])C1[H]>>[O-:10]C(CCC)C([H])C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[Cl-:21] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[Na][O:21]CC.[C:20](=[O:10])(OCCCCCC)OC>>[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OC)CC 21=20;20,10=10"
"[OH:21][CH:20]2(C)C3=C(C(C([OH+:10]2)C)[H])C=CC=C3>>[OH:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])[H])C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(C)C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C(C)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"CCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)CCCCCC>>CCN([C:20](=[O:10])OCCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C(CC)[O:10]1>>[O-:10]C(CC)C([H])/C(C)=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(CC)C(CC)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CC[S:10][H].[H][O+:21]=[C:20]([S][H])[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([S][H])[O]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:21][C:20]1([H])[OH+:10]C([H])C(O)C1[H]>>[OH:10]C([H])C(O)C([C:20]([H])=[OH+:21])[H] 21=20;20,10=10"
"CC[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C([H])C([H])C(C)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(C)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(CC)C([H])[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"[H][S:10]C([H])C([H])C(CC)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C)[S]CC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[S]2.CC[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
